US04089855
In an anhydrous system 32 g of 3-methoxy-14-hydroxy-6-ketomorphinan, 16 ml triethylamine and 300 ml of benzene are stirred together and, over a 30 minute period, a solution of 13 g of cyclobutylcarbonylchloride in 100 ml of benzene is added. The internal temperature is kept below 25° by means of an ice bath, after which stirring is continued for four more hours at room temperature. In the isolation, triethylaminehydrochloride is removed by filtration, the solvent evaporated, and the residue solidified by stirring in 200 ml of petroleum ether to give crude N-cyclobutylcarbonyl-3-methoxy-14-hydroxy-6-ketomorphinan.

reactant | 3-methoxy-14-hydroxy-6-ketomorphinan | 32 g | COC=1C=CC=2C[C@@H]3[C@@]4(CCC(C[C@@]4(C2C1)CCN3)=O)O | C17H21NO3
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
reactant | cyclobutylcarbonylchloride | 13 g | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | N-cyclobutylcarbonyl-3-methoxy-14-hydroxy-6-ketomorphinan | C1(CCC1)C(=O)N1[C@H]2[C@@]3(CCC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O)O | C22H27NO4
